US07001897B2
To a solution of 3-t-butyldiphenylsilyloxy-1-(4-phenylcarbamoyl-1,3-thiazol-2-yl)azetidine (2.20 g, 4.29 mmol) (obtained as described in Reference Example 32(1)) in anhydrous tetrahydrofuran (110 ml) was added a solution of 1.0M tetra-n-butylammonium fluoride in tetrahydrofuran (5.15 ml, 5.15 mmol) in an ice bath, and then the mixture was stirred for 2 hours. After checking the completion of the reaction, the reaction mixture was concentrated under reduced pressure. The residue was purified by chromatography on a silica gel column using ethyl acetate as the eluant to afford 3-hydroxy-1-(4-phenylcarbamoyl-1,3-thiazol-2-yl)azetidine (1.18 g, yield 100%) as a white solid.

reactant | 3-t-butyldiphenylsilyloxy-1-(4-phenylcarbamoyl-1,3-thiazol-2-yl)azetidine | 4.29 mmol, 2.20 g | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OC1CN(C1)C=1SC=C(N1)C(NC1=CC=CC=C1)=O | C29H31N3O2SSi
reactant | tetra-n-butylammonium fluoride | 1.0M | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | tetrahydrofuran | 110 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5.15 mmol, 5.15 ml | O1CCCC1 | C4H8O
product | 3-hydroxy-1-(4-phenylcarbamoyl-1,3-thiazol-2-yl)azetidine | 1.18 g, yield 100% | OC1CN(C1)C=1SC=C(N1)C(NC1=CC=CC=C1)=O | C13H13N3O2S
